US08871756B2
Methyl N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninate
To a solution of N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alanine (85 mg, 0.2 mmol, prepared in analogy to the one in Example 14-2) in methanol (10 mL) at 0° C. was added thionyl chloride (1.5 mL) carefully. The mixture was stirred at room temperature for 20 minutes, and then refluxed at 80° C. for 2 hours. After being cooled to room temperature, the mixture was concentrated in vacuo. The residue was dissolved in dichloromethane, washed with a saturated aqueous solution of sodium bicarbonate, water and brine, then dried over sodium sulfate, and concentrated in vacuo to afford the crude product which was directly used for the next step without further purification.

reactant | N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alanine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCC(=O)O)C)=O | C22H23N3O4S
reactant | thionyl chloride | 1.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 10 mL | CO | CH4O
product | Methyl N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninate | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCC(=O)OC)C)=O | C23H25N3O4S
